Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
HD Methotrexate treatment
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ man with HIV on ART, CAD, h/o 
MI s/p stent placement ___, CNS lymphoma s/p 14 cycles MTX here 
for C15. Note that his last cycle was ___ of last year 
___.  He states today that he tried to come back from ___ 
___ and ___ Dr. ___ ___ but had to return to ___ 
___. Dr. ___ told him he could move to q6 month - 
qyearly MTX intervals. He saw him in ___ and they planned 
this admission. Otherwise he has no new symptoms. No headache or 
diplopia or urinary problems, no fevers or
nausea/vomiting/diarrhea.

REVIEW OF SYSTEMS:
GENERAL: No fever, chills, night sweats, recent weight changes.  
HEENT: No sores in the mouth, painful swallowing, intolerance to 
liquids or solids, sinus tenderness, rhinorrhea, or congestion.  
CARDS: No chest pain, chest pressure, exertional symptoms, or 
palpitations.  PULM: No cough, shortness of breath, hemoptysis, 
or wheezing.  GI: No nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel habits, hematochezia, 
or melena.  GU: No dysuria or change in bladder habits.  MSK: No 
arthritis, arthralgias, myalgias, or bone pain.  DERM: Denies 
rashes, itching, or skin breakdown.  NEURO: No headache, visual 
changes, numbness/tingling, paresthesias, or focal neurologic 
symptoms.  PSYCH: No feelings of depression or anxiety. All 
other review of systems negative.
 
Past Medical History:
___ is a ___ left-handed man, with a
history of HIV on HAART, coronary artery disease, hypertension
and myocardial infarction that required a cardiac stent, who has
CNS lymphoma.  He had:
(1) stereotaxic biopsy of the mass by Dr. ___ on
___,
(2) an echocardiogram that was performed on ___ showing
apical hypokinesis but his ejection fraction remained at 55%,
(3) started high-dose methotrexate on ___ and had 5
induction cycles so far,
(4) started re-induction high-dose methtorexate on ___ and
had 3 cycles,
(5) started monthly maintenance high-dose methotrexate on
___ and had 4 cycles, and
(6) started every 2-month maintenance high-dose methotrexate on
___ and had 3 cycles.

His neurological problem began at the end of ___ when
he experienced imbalance and blurry vision.  Initially, his gait
imbalance was intermittent, mostly occuring after eating and
lasting for a couple of hours.  However, it progressed to a
constant fashion.  He also developed blurry vision and he had to
close one eye in order to see clearly.  On ___, his
imbalance was severe enough that his brother, ___, took him to ___.  He had a head
CT that showed a mass at the brainstem.  He was referred to see
Dr. ___ on ___ who admitted him to the
Neurosurgery Service.  A gadolinium-enhanced head MRI on 
___
showed a homogeneously enhancing mass at the lateral recess on
the right side of the fourth ventricle.  He then underwent a
stereotaxic biopsy of the mass by Dr. ___ on
___.  After biopsy he remains neurologically stable.  He
then started high-dose methotrexate on ___.

His cardiac history is significant for a myocardial infarction
with inferior ST elevation that occurred in ___.  
He
subsequently received a cardiac stent in the large obtuse
marginal branch.  He also had a chronically occluded LAD
collateralized from the right coronary artery.  An exercise
stress test in ___ showed a fixed moderate myocardial
perfusion defect in the anteroapical wall with no evidence of
reversible ischemia and echocardiogram.  His ejection fraction
was 55% with severe apical hypokinesis.  He had a repeat
echocardiogram on ___ that showed apical hypokinesis but 
his
ejection fraction remained at 55%. 

He is HIV positive from heterosexual contact.  He was on HAART
therapy from ___ to ___, and subsequently stopped from ___ to
___, and then resumed in ___.  His viral load is undetectable
when it was last checked at ___ in
___.  He sees Dr. ___ and ___ there.  He is now on Stribild and
Kaletra.

His past medical history is significant for coronary artery
disease, myocardial infarction, HIV disease, pancreatitis,
hypertension, hypercholesterolemia and gastric ulcer.  He also
had right-sided ophthalmic shingles as well as shingles in V3
distribution in ___.  He also underwent a cardiac stent
placement in ___.  
 
Social History:
___
Family History:
His parents are alive; his mother has pre-diabetes while his 
father has glaucoma and prostate cancer.  He has 6 brothers, one 
of the, has kidney problem.  He has 3 daughters and they are all 
healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
VITAL SIGNS: 98.6 F, BP 97/62, HR 80, RR 16, and O2 Saturation 
97% in room air
General:  NAD
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or 
axillary adenopathy, no thyromegaly
CARDIOVASCUALR:  RR, NL S1S2 no S3S4 MRG
PULMONARY:  CTAB
GASTROINTESTINAL:  BS+, soft, NTND, no masses or 
hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal 
adenopathy
SKIN:  No rashes or skin breakdown
NEUROLOGICAL EXAMINATION: Oriented x3. Cranial nerves II-XII are 
within normal
limits excluding visual acuity which was not assessed, no
nystagmus; strength is ___ of the proximal and distal upper and
lower extremities; reflexes are 2+ of the biceps, triceps,
patellar, and Achilles tendons, toes are down bilaterally; gait
is normal, coordination is intact.

DISCHARGE PHYSICAL EXAMINATION
VITAL SIGNS: 97.9 F, HR 72, BP 120/70, RR 18, and O2 saturation 
100 in room air
General:  NAD
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CARDIOVASCULAR:  RR, NL S1S2 no S3S4 MRG
PULMONARY:  CTAB
GASTROINTESTINAL:  BS+, soft, NTND, no masses or 
hepatosplenomegaly
LIMBS:  No edema, clubbing, 
SKIN:  No rashes or skin breakdown
NEUROLOGICAL EXAMINATION: tremors, or asterixis; neuro-exam 
grossly intact
 
Pertinent Results:
ADMISSION LABS
___ 02:02PM BLOOD WBC-4.6 RBC-4.60 Hgb-14.0 Hct-42.1 MCV-92 
MCH-30.4 MCHC-33.3 RDW-13.1 RDWSD-43.8 Plt ___
___ 02:02PM BLOOD Neuts-64.0 ___ Monos-6.3 Eos-2.0 
Baso-0.4 Im ___ AbsNeut-2.95 AbsLymp-1.25 AbsMono-0.29 
AbsEos-0.09 AbsBaso-0.02
___ 02:02PM BLOOD ___ PTT-33.9 ___
___ 02:02PM BLOOD Glucose-134* UreaN-18 Creat-1.1 Na-136 
K-4.2 Cl-104 HCO3-23 AnGap-13
___ 02:02PM BLOOD ALT-34 AST-29 AlkPhos-56 TotBili-0.5
___ 02:02PM BLOOD Calcium-9.1 Phos-2.9 Mg-1.9

DISCHARGE LABS
___ 10:59PM BLOOD WBC-5.8 RBC-4.58* Hgb-13.8 Hct-41.7 
MCV-91 MCH-30.1 MCHC-33.1 RDW-13.2 RDWSD-44.1 Plt ___
___ 10:59PM BLOOD Neuts-82.7* Lymphs-13.8* Monos-2.8* 
Eos-0.0* Baso-0.2 NRBC-0.0 Im ___ AbsNeut-4.79# 
AbsLymp-0.80* AbsMono-0.16* AbsEos-0.00* AbsBaso-0.01
___ 10:59PM BLOOD Glucose-174* UreaN-14 Creat-1.2 Na-142 
K-3.4 Cl-100 HCO3-30 AnGap-15
___ 10:59PM BLOOD ALT-129* AST-52* LD(LDH)-177 AlkPhos-53 
TotBili-0.4
___ 10:59PM BLOOD Albumin-3.7 Calcium-8.8 Phos-2.6* Mg-2.2

PERTINENT LABS
___ 10:59PM BLOOD mthotrx-0.15
___ 10:47PM BLOOD mthotrx-3.5
 
Brief Hospital Course:
___ is a ___ man with HIV on ART, CAD, h/o 
MI s/p stent placement ___, CNS lymphoma s/p 14 cycles MTX here 
for C15 MTX. 

ACTIVE ISSUES
1. CNS lymphoma - admit for HD MTX on ___ D1. Patient 
tolerated treatment well.  Labs stable. He got bicarb/leucovorin 
per protocol.  Had recent brain MRI without recurrence of 
disease.  Patient's MTX level was 0.15 in 48 hours, hence to be 
discharged.

CHRONIC ISSUES
1. H/o HSV eruption - states he has discontinued his 
prophylactic
acyclovir. Will t/b with neuro onc team about this.
 
2. HIV - followed at ___, continue STRIBILD

3. Coronary Artery Disease: cont Plavix no acute cardiac 
symptoms

TRANSITIONAL ISSUES
1. Followup with Dr. ___ to be arranged in three months.
- will need followup MRI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 80 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Lisinopril 5 mg PO DAILY
 
Discharge Medications:
1. Clopidogrel 75 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 80 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Lisinopril 5 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for IV methotrexate treatment.  You 
tolerated the treatment well, and can now go home.  Please do 
not hesitate to call if you have any questions.
 
Followup Instructions:
___